US06417200B1
C) 2-(4-t-butylbenzoylamino)-N-(3-cyanophenyl)benzamide
Using a procedure similar to Example 1B except starting with 2-amino-N-(3-cyanophenyl)benzamide and 4-t-butylbenzoyl chloride, the title compound was obtained as a white solid (92%); MP: 194-6° C.; IR(KBr): 757, 1584, 1647, 2969, 3256 cm−1; NMR(300 MHz, CDCl3): 1.40 (s, 9H); 6.90 (t, 1H, J=7.2 Hz); 7.31 (m, 1H); 7.49-7.55 (m, 3H); 7.60 (d, 2H, J=7.5 Hz); 7.95 (d, 3H, J=8.4 Hz); 8.36 (s, 1H); 8.46 (d, 1H, J=8.4 Hz); 9.19 (s, 1H); 11.42 (s, 1H); MS(FD): 397.1.

reactant | 2-amino-N-(3-cyanophenyl)benzamide | NC1=C(C(=O)NC2=CC(=CC=C2)C#N)C=CC=C1 | C14H11N3O
reactant | 4-t-butylbenzoyl chloride | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
product | 2-(4-t-butylbenzoylamino)-N-(3-cyanophenyl)benzamide | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC(=CC=C3)C#N)C=CC=C2)C=C1 | C25H23N3O2
